US08003654B2
6) Synthesis of N-(5-acetyl-2-chloro-phenyl)-3,4-dimethoxy-benzenesulfonamide
A solution of N-[2-chloro-5-(1-hydroxy-ethyl)-phenyl]-3,4-dimethoxy-benzenesulfonamide (1.85 g, 5 mmol) in DCM/THF (1:1, 10 mL) was treated with MnO2 (10.8 g, 25 eq). The mixture was stirred at RT for 7 h, filtered over Celite and concentrated. The residue was purified by chromatography on SiO2 (hex/EA 1:1). The product was recovered as a colourless foam (1.58 g, 86%).

reactant | N-[2-chloro-5-(1-hydroxy-ethyl)-phenyl]-3,4-dimethoxy-benzenesulfonamide | 5 mmol, 1.85 g | ClC1=C(C=C(C=C1)C(C)O)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC | C16H18ClNO5S
solvent | DCM THF | 10 mL | C(Cl)Cl.C1CCOC1
catalyst | MnO2 | 10.8 g, 25 eq | O=[Mn]=O
product | N-(5-acetyl-2-chloro-phenyl)-3,4-dimethoxy-benzenesulfonamide | C(C)(=O)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)Cl | C16H16ClNO5S
